Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
stage III cystocele
 
Major Surgical or Invasive Procedure:
anterior repair, hysteropexy, and cystoscopy 

 
History of Present Illness:
___ yo G14P10 (SVDx10) who presented with vaginal bulge and 
urinary urgency. Patient speaks ___ this visit was 
conducted with the assistance of a hospital interpreter.

She first noticed the vaginal bulge ___ years ago, and notes 
worsening with straining, coughing, and lifting things. She 
often has trouble voiding due to the prolapse, and sometimes 
feels as though she incompletely empties her bladder. She denies 
issues with bowel movements and has never had to reduce the 
bulge in order to void or defecate. She briefly tried a pessary 
in the past but discontinued use due to vaginal irritation.

She has had urinary urgency over the last ___ years, and reports 
incontinent episodes with almost every void. She voids ___ times 
per day and 3 times per night. She wears pads daily, and changes 
them ___ times per day (she does not think that she is 
constantly leaking urine). When she leaves her house, she makes 
sure to limit fluid intake and periodically empties her bladder 
to avoid
incontinent episodes. She finds her prolapse and urinary 
symptoms very distressing as she is unable to leave her house 
for long periods of time and has trouble lifting and carrying 
bags (ex. at the grocery store).

She denies leakage of urine with coughing, sneezing, or 
straining. Although she has a history of frequent UTIs in the 
past (approx. 3x per year), she has not had any dysuria, 
hematuria, or pain/discomfort with voids over the last year. She 
denies a history of nephrolithiasis. She denies changes in her
bowel habits. No pain with BMs, constipation, diarrhea, fecal 
incontinence.

She presented to ___ clinic in ___ and underwent 
placement of a #5 ring pessary. She used the pessary briefly, 
but discontinued use due to vaginal irritation and discomfort. 
She is not interested in another pessary trial. She re-presented 
to Dr. ___ 2 months ago and was started on 
oxybutynin. She reports improvement in her symptoms since 
starting oxybutynin.

 
Past Medical History:
PMH: T2DM, HTN, HLD
PSH: laprascopic cholecystectomy 

 
Social History:
___
Family History:
NC 
 
Physical Exam:
Vital signs: ___ Temp: 99.1 PO BP: 137/75 R Lying HR:
77 RR: 16 O2 sat: 95% O2 delivery: RA 
___ 2327 Temp: 99.0 PO BP: 102/69 HR: 78 RR: 18 O2 sat: 95%
O2 delivery: ra 
___ 0330 Temp: 98.1 PO BP: 155/80 HR: 70 RR: 18 O2 sat: 95%
O2 delivery: ra 
Ins:
 > Last day: ___ Total Intake: 2697ml PO Amt: 700ml IV Amt
Infused: 1997ml 
 > Since ___ Total Intake: 1240ml PO Amt: 240ml IV Amt
Infused: 1000ml 
Outs: 
 > Last day: ___ Total Output: 1610ml Urine Amt: 1610ml 
___
pad: 0ml 
 > Since ___ Total Output: 625ml Urine Amt: 625ml 
General: NAD, comfortable
CV: RRR, normal s1 and s2, no m/r/g
Lungs: normal work of breathing, CTAB
Abdomen: soft, non-distended, nontender to palpation without
rebound or guarding
GU: vaginal packing in place with moderate amount of thin,
serosanguinous discharge on pad; foley in place draining clear
yellow urine
Extremities: no edema, no TTP, pneumoboots in place bilaterally 

 
Pertinent Results:
___ 06:29AM BLOOD WBC-11.4* RBC-3.53* Hgb-10.9* Hct-32.5* 
MCV-92 MCH-30.9 MCHC-33.5 RDW-11.8 RDWSD-39.3 Plt ___
___ 06:29AM BLOOD Plt ___
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after undergoing anterior repair, hysteropexy, and 
cystoscopy for stage III cystocele. Please see the operative 
report for full details. 

Immediately post-op, her pain was controlled with IV Dilaudid 
and Toradol. During pre-operative, she was hypertensive to 
200-210s, asymptomatic, with no signs of end-organ failure. 
Following the procedure, she was hypertensive to the 200s in the 
PACU and received hydral 10 mg IV. Since then, she has remained 
mildly hypertensive. She was restarted on her home 
hydrochlorothiazide on post-op day 0. 

On post-operative day 1, her urine output was adequate and she 
was able to spontaneously void after a formal trial of void. Her 
diet was advanced without difficulty and she was transitioned to 
oral ibuprofen, and acetaminophen. By post-operative day 1, she 
was tolerating a regular diet, voiding spontaneously, ambulating 
independently, and pain was controlled with oral medications. 
She was restarted on her home metformin and glipizide for 
diabetes management. She was then discharged home in stable 
condition with outpatient follow-up scheduled.

 
Medications on Admission:
- glipizide 10mg QD
- HCTZ 25mg QD
- metformin 1000mg BID
- oxybutynin 5mg QD
- simvastatin 40mg QD
- Tylenol prn
- calcium
- eye drops
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 8 hours Disp 
#*40 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*1 
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *ibuprofen 400 mg 1 tablet(s) by mouth every 6 hours Disp 
#*40 Tablet Refills:*1 
4.  Artificial Tears GEL 1% 1 DROP BOTH EYES TID  
5.  GlipiZIDE 10 mg PO BID  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  MetFORMIN (Glucophage) 1000 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
stage III cystocele

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___